US05461060
Then, 2.2 ml of lithium diisopropylamide (4.4 mmol) solution in tetrahydrofuran (2.1M) was added to 6 ml of tetrahydrofuran under a nitrogen atmosphere at -70° C., to which a solution of 0.40 g (2.0 mmol) of 1-ethoxymethyl-5-ethyluracil in 3 ml of tetrahydrofuran was added dropwise over 15 minutes. After stirring for 1 hour at -70° C., the reaction mixture was added with a solution of 0.57 g of diphenyl disulfide in 2 ml of tetrahydrofuran dropwise over 10 minutes and allowed to react for 30 minutes. The reaction mixture was added with 1 ml of acetic acid, brought to room temperature and then added with 30 ml of ethyl acetate. The mixture was washed with water (3 ml×5) and saturated aqueous solution of sodium hydrogencarbonate (twice), dried on magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (ethyl acetate/hexane=3:17) and crystallized from ethyl acetate to obtain 0.61 g of 1-ethoxymethyl-5-ethyl-6-phenylthiouracil (Yield: 32%).

reactant | lithium diisopropylamide | 4.4 mmol, 2.2 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | 1-ethoxymethyl-5-ethyluracil | 2.0 mmol, 0.40 g | C(C)OCN1C(=O)NC(=O)C(=C1)CC | C9H14N2O3
reactant | diphenyl disulfide | 0.57 g | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
reactant | tetrahydrofuran | 2.1M | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 1-ethoxymethyl-5-ethyl-6-phenylthiouracil | 0.61 g, Yield: 32% | C(C)OCN1C(=S)NC(=O)C(=C1C1=CC=CC=C1)CC | C15H18N2O2S
